US07253196B2
5-Isopropyl-2-[(2-methylphenyl)amino]-1,3-thiazol-4(5H)-one
Synthesis was performed from N-(2-methylphenyl)thiourea and ethyl 2-bromo-3-methylbutanoate according to Method C.

reactant | N-(2-methylphenyl)thiourea | CC1=C(C=CC=C1)NC(=S)N | C8H10N2S
reactant | ethyl 2-bromo-3-methylbutanoate | BrC(C(=O)OCC)C(C)C | C7H13BrO2
product | 5-Isopropyl-2-[(2-methylphenyl)amino]-1,3-thiazol-4(5H)-one | C(C)(C)C1C(N=C(S1)NC1=C(C=CC=C1)C)=O | C13H16N2OS
